US04226738
Preparation of N,N'-Bis(4-nitrophenyl)-N,N'-Bis(trifluoromethylsulfonyl)Oxamide
Oxalyl chloride (0.825 gram; 0.0065 mole) is added dropwise to a stirred solution of N-4-nitrophenyl trifluoromethanesulfonamide (3.61 grams; 0.013 mole) and triethylamine (1.3 grams; 0.0128 mole) in dry tetrahydrofuran (40 mls) at 0° C. under a nitrogen atmosphere. After the addition is completed, the reaction mixture is warmed to room temperature and stirred thereat for 18 hours. The reaction mixture is then filtered, the solvent is evaporated from the filtrate, and water (20 mls) is added to the residue. The resulting precipitate is then filtered to obtain 3.29 grams (92% of theoretical) of crude yellow-colored product.

reactant | Oxalyl chloride | 0.0065 mole, 0.825 gram | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-4-nitrophenyl trifluoromethanesulfonamide | 0.013 mole, 3.61 grams | [N+](=O)([O-])C1=CC=C(C=C1)NS(=O)(=O)C(F)(F)F | C7H5F3N2O4S
reactant | triethylamine | 0.0128 mole, 1.3 grams | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 40 mls | O1CCCC1 | C4H8O
product | N,N'-Bis(4-nitrophenyl)-N,N'-Bis(trifluoromethylsulfonyl)Oxamide | [N+](=O)([O-])C1=CC=C(C=C1)N(C(=O)C(=O)N(S(=O)(=O)C(F)(F)F)C1=CC=C(C=C1)[N+](=O)[O-])S(=O)(=O)C(F)(F)F | C16H8F6N4O10S2
